** sch_path: sim/ic-screen-125c-b/testbench/tb_ic_screen_125c_seeded.sch
**.subckt tb_ic_screen_125c_seeded
VVIN VIN 0 'vsup'
.save i(vvin)
VEN EN 0 'vsup'
.save i(ven)
VVREF VREF 0 1.2
.save i(vvref)
xldo VOUT VREF EN VIN ldo_3v3in_1v8out
COUT VOUT VESR 1u m=1
RESR VESR 0 10m m=1
ILOAD VOUT 0 50m
**** begin user architecture code

.ic v(VOUT)=1.8 v(xldo.FB)=1.2 v(xldo.N_FBB)=0.6 v(xldo.EA_OUT)={vsup-1.243} v(xldo.EA_CZ)={vsup-1.243} v(xldo.SS)={vsup-0.002} v(xldo.BIASP)={vsup-0.906} v(xldo.NB)=0.761 v(xldo.EA_TAIL)={vsup-1.127} v(xldo.EA_D1)=0.794 v(xldo.EA_D2)=0.794

**** end user architecture code
**.ends

* expanding   symbol:  design/ldo_3v3in_1v8out.sym # of pins=4
** sym_path: design/ldo_3v3in_1v8out.sym
** sch_path: design/ldo_3v3in_1v8out.sch
.subckt ldo_3v3in_1v8out VOUT VREF EN VIN
*.ipin VIN
*.ipin EN
*.ipin VREF
*.opin VOUT
XR_BIAS VIN NB 0 sky130_fd_pr__res_high_po W=0.42 L=1500 mult=1 m=1
XM_BIASN1 NB NB BIAS_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_ENN BIAS_ENN EN 0 0 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_BIASN2 BIASP NB BIAS_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_BIASP1 BIASP BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=1 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_ENP2 BIASP EN VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_TAIL EA_TAIL BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=40 nf=8 ad=5.8 as=7.25 pd=42.32 ps=52.9 nrd=0.00725 nrs=0.00725
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_IN1 EA_D1 FB EA_TAIL VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_IN2 EA_D2 VREF EA_TAIL VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_MIR1 EA_D1 EA_D1 AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=4 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_MIR2 EA_OUT EA_D1 AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=4 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_ENN2 AMP_ENN EN 0 0 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_ENP EA_OUT EN VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_MIR3 EA_D2 EA_D2 AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=4 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_MIR4 PB EA_D2 AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=4 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_MIRP1 PB PB VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=4 W=20 nf=4 ad=2.9 as=4.35 pd=21.16 ps=31.74 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_MIRP2 EA_OUT PB VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=4 W=20 nf=4 ad=2.9 as=4.35 pd=21.16 ps=31.74 nrd=0.0145 nrs=0.0145 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_ENP5 PB EN VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_PASS VOUT EA_OUT VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=100 nf=25 ad=15.08 as=15.08 pd=111.54 ps=111.54 nrd=0.0029
+ nrs=0.0029 sa=0 sb=0 sd=0 mult=50 m=50
C_COMP VOUT EA_CZ 150p m=1
XR_CZ EA_CZ EA_OUT 0 sky130_fd_pr__res_xhigh_po W=0.42 L=52 mult=1 m=1
XR_FB_A VOUT FB 0 sky130_fd_pr__res_xhigh_po W=0.42 L=180 mult=1 m=1
XR_FB_B FB N_FBB 0 sky130_fd_pr__res_xhigh_po W=0.42 L=180 mult=1 m=1
XR_FB_C N_FBB 0 0 sky130_fd_pr__res_xhigh_po W=0.42 L=180 mult=1 m=1
XM_SENSE CL_SNS EA_OUT VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42
+ nrd=0.69047619047619 nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=2 m=2
XM_CLN1 CL_SNS CL_SNS AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=1 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_CLN2 CL_CMP CL_SNS AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1.6 nf=1 ad=0.464 as=0.464 pd=3.78 ps=3.78 nrd=0.18125
+ nrs=0.18125 sa=0 sb=0 sd=0 mult=1 m=1
XM_CLP CL_CMP BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=1 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_CLIM EA_OUT CL_CMP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=4 ad=2.9 as=4.35 pd=21.16 ps=31.74 nrd=0.0145 nrs=0.0145
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_ENP3 CL_CMP EN VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
C_CL VIN CL_CMP 1p m=1
XM_INVP ENB EN VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_INVN ENB EN 0 0 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM_SSDIS SS ENB 0 0 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM_SSCHG SS BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=8 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
C_SS SS 0 10p m=1
XM_IN2S EA_D2 SS EA_TAIL VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_TSPS TS_SNS BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=1 W=1.25 nf=1 ad=0.3625 as=0.3625 pd=3.08 ps=3.08 nrd=0.232 nrs=0.232
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_TSD1 TS_SNS TS_SNS TS_MID 0 sky130_fd_pr__nfet_g5v0d10v5 L=4 W=80 nf=16 ad=11.6 as=13.05 pd=84.64 ps=95.22 nrd=0.003625
+ nrs=0.003625 sa=0 sb=0 sd=0 mult=1 m=1
XM_TSD2 TS_MID TS_MID AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=4 W=80 nf=16 ad=11.6 as=13.05 pd=84.64 ps=95.22 nrd=0.003625
+ nrs=0.003625 sa=0 sb=0 sd=0 mult=1 m=1
XM_TSPR TS_REF BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=1 W=7 nf=1 ad=2.03 as=2.03 pd=14.58 ps=14.58 nrd=0.0414285714285714
+ nrs=0.0414285714285714 sa=0 sb=0 sd=0 mult=1 m=1
XM_TSR1 TS_REF TS_REF AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=2 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42
+ nrd=0.69047619047619 nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XM_TCTAIL TC_TAIL NB AMP_ENN 0 sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_TCN1 TC_D1 TS_SNS TC_TAIL 0 sky130_fd_pr__nfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_TCN2 TS_CMP TS_REF TC_TAIL 0 sky130_fd_pr__nfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_TCP1 TC_D1 TC_D1 VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_TCP2 TS_CMP TC_D1 VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=10 nf=2 ad=1.45 as=2.9 pd=10.58 ps=21.16 nrd=0.029 nrs=0.029 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_TSHUT EA_OUT TS_CMP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=4 ad=2.9 as=4.35 pd=21.16 ps=31.74 nrd=0.0145 nrs=0.0145
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_TSHYSB TS_HYS BIASP VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=2 W=4.5 nf=1 ad=1.305 as=1.305 pd=9.58 ps=9.58
+ nrd=0.0644444444444444 nrs=0.0644444444444444 sa=0 sb=0 sd=0 mult=1 m=1
XM_TSHYS TS_REF TS_CMP TS_HYS VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_ENP4 TS_CMP EN VIN VIN sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1 m=1
C_TS VIN TS_CMP 1p m=1
.ends

.end
